US08378095B2
To a solution of 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-2-(pyridin-3-ylamino)oxazole-4-carboxylic acid (0.046 g, 0.1 mmol) in DMF (1 ml) was added O-7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.065 g, 0.17 mmol), diisopropylethylamine (0.03 ml, 0.17 mmol) and 0.5M NH3 in dioxane (0.6 ml, 0.3 mmol) and the resultant mixture stirred at room temperature overnight. A further portion of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.020 g, 0.05 mmol), diisopropylethylamine (0.01 ml, 0.056 mmol) and 0.5M NH3 in dioxane (0.2 ml, 0.1 mmol) was added and the reaction stirred for 1 hour. The solvent was removed in vacuo and the residue purified by preparative HPLC to afford tent-butyl 4-(4-(4-carbamoyl-2-(pyridin-3-ylamino)oxazol-5-yl)phenyl)piperazine-1-carboxylate (0.006 g, 0.013 mmol, 13%). LCMS (2) Rt: 2.64 min; m/z (ES+) 465.

reactant | 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-2-(pyridin-3-ylamino)oxazole-4-carboxylic acid | 0.1 mmol, 0.046 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=C(N=C(O1)NC=1C=NC=CC1)C(=O)O | C24H27N5O5
reactant | N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.17 mmol, 0.065 g | F[P-](F)(F)(F)(F)F.C[N+](=C(O)N(C)C)C
reactant | diisopropylethylamine | 0.17 mmol, 0.03 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NH3 | 0.5M | N | H3N
reactant | dioxane | 0.3 mmol, 0.6 ml | O1CCOCC1 | C4H8O2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.05 mmol, 0.020 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.056 mmol, 0.01 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NH3 | 0.5M | N | H3N
reactant | dioxane | 0.1 mmol, 0.2 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | butyl 4-(4-(4-carbamoyl-2-(pyridin-3-ylamino)oxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.013 mmol, 0.006 g, 13% | C(N)(=O)C=1N=C(OC1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OCCCC)NC=1C=NC=CC1 | C24H28N6O4
